US04977166
3,4-Dimethoxy-α-bromotoluene (11.6 g) [Gordon N. Walker et al., J. Org. Chem., 26, 2740 (1961)] and triphenylphosphine (13.11 g) are heated in dimethylformamide (150 cc) at 75° C. for 1 hour 30 minutes. After addition of ethyl ether (700 cc) to the reaction mixture and filtration, 3,4-dimethoxyphenylmethyltriphenylphosphonium bromide (19.8 g) is obtained in the form of a white solid melting at 260° C.

reactant | 3,4-Dimethoxy-α-bromotoluene | 11.6 g | COC=1C=C(C=CC1OC)CBr | C9H11BrO2
reactant | triphenylphosphine | 13.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl ether | 700 cc | C(C)OCC | C4H10O
solvent | dimethylformamide | 150 cc | CN(C=O)C | C3H7NO
product | 3,4-dimethoxyphenylmethyltriphenylphosphonium bromide | 19.8 g | [Br-].COC=1C=C(C=CC1OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H26O2P.BrH/c1-28-26-19-18-22(20-27(26)29-2)21-30(23-12-6-3-7-13-23,24-14-8-4-9-15-24)25-16-10-5-11-17-25;/h3-20H,21H2,1-2H3;1H/q+1;/p-1
